US09376422B2
Step 2: Synthesis of 3-(aminomethyl)-5-fluoro-4,6-dimethyl-1,2-dihydropyridin-2-one
A solution of 0.05M 5-fluoro-4,6-dimethyl-2-oxo-1,2-dihydropyridine-3-carbonitrile (731 mg, 4.4 mmol) in 1.75M NH3/MeOH (87 ml) was passed through the H-Cube flow hydrogenator at 80° C. and 50 bar at a flow rate of 1 ml/min. The resulting solution was concentrated in-vacuo. The resulting solid was split into 2 batches and 350 mg of the crude product was purified by column chromatography (25 g SNAP cartridge, Isolera, 0-25% MeOH (containing 10% NH4OH):CH2Cl2) to give the title compound (307 mg, 20%) as an off white solid and a 1:1 mixture of product:starting material. LC-MS (ELS) 100%, m/z=170.9, 1H NMR (500 MHz, Chloroform-d) δ ppm 3.79 (s, 2H) 2.31 (d, J=2.84 Hz, 3H) 2.25 (d, J=2.05 Hz, 3H).

reactant | 5-fluoro-4,6-dimethyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 4.4 mmol, 0.05M, 731 mg | FC=1C(=C(C(NC1C)=O)C#N)C | C8H7FN2O
solvent | NH3 MeOH | 1.75M, 87 ml | N.CO
product | 3-(aminomethyl)-5-fluoro-4,6-dimethyl-1,2-dihydropyridin-2-one | 307 mg, 20% | NCC=1C(NC(=C(C1C)F)C)=O | C8H11FN2O
